US06040309
Ethyl 3-[(3-methoxyphenyl)sulfinyl]-6-(4-pyridylmethoxy)benzo[b]thiophene-2-carboxylate
Potassium carbonate (240 mg, 1.73 mmol) was added to a solution of ethyl 6-hydroxy-3-(phenylsulfinyl)benzo[b]thiophene-2-carboxylate (Preparation 19, 200 mg, 0.58 mmol) in anhydrous dimethylformamide (3 ml) at ambient temperature under a nitrogen atmosphere. After 15 minutes 4-(chloromethyl)pyridine hydrochloride (104 mg, 0.64 mmol) was added, and stirring continued for 24 hours. The mixture was partitioned between ethyl acetate and water, and the organic layer was separated and washed twice with water, dried (magnesium sulfate), and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel using ethyl acetate as eluant, and crystallised from diisopropyl ether to give the title compound as a colourless solid (198 mg).

reactant | Potassium carbonate | 1.73 mmol, 240 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 6-hydroxy-3-(phenylsulfinyl)benzo[b]thiophene-2-carboxylate | 0.58 mmol, 200 mg | OC=1C=CC2=C(SC(=C2S(=O)C2=CC=CC=C2)C(=O)OCC)C1 | C17H14O4S2
reactant | 4-(chloromethyl)pyridine hydrochloride | 0.64 mmol, 104 mg | Cl.ClCC1=CC=NC=C1
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-[(3-methoxyphenyl)sulfinyl]-6-(4-pyridylmethoxy)benzo[b]thiophene-2-carboxylate | 198 mg | COC=1C=C(C=CC1)S(=O)C=1C2=C(SC1C(=O)OCC)C=C(C=C2)OCC2=CC=NC=C2 | C24H21NO5S2
